US07410981B2
2-(Methylamino)ethyl trimethylacetate hydrochloride
To a mixture of tert-butyl 2-hydroxyethyl(methyl)carbamate (1.75 g) obtained in Reference Example 1 and ethyl acetate (15 mL) was added triethylamine (1.67 mL) and a mixture of trimethylacetyl chloride (1.35 mL), and ethyl acetate (5 mL) was dropwise added. After stirring at room temperature for 2 hrs., pyridine (1.62 mL) was added, and the mixture was stirred overnight at room temperature. Ethyl acetate (50 mL) was added to the reaction mixture, and the mixture was washed with water (50 mL), a 5% aqueous citric acid solution (50 mL) and saturated brine (50 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, a 4N hydrogen chloride-ethyl acetate solution (10 mL) was added to the residue. After stirring at room temperature for 2 hrs., diethyl ether (10 mL) was added, and the precipitated solid was collected by filtration. The solid was dried under reduced pressure to give the title compound (1.65 g) as a white solid.

reactant | tert-butyl 2-hydroxyethyl(methyl)carbamate | 1.75 g | OCCN(C(OC(C)(C)C)=O)C | C8H17NO3
reactant | triethylamine | 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 1.35 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 1.62 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Methylamino)ethyl trimethylacetate hydrochloride | 1.65 g | Cl.CC(C(=O)OCCNC)(C)C | InChI=1S/C8H17NO2.ClH/c1-8(2,3)7(10)11-6-5-9-4;/h9H,5-6H2,1-4H3;1H
